US06316637B1
1-Cyclohexylmethyl-4-bromo-5-aminobenzimidazole.
To a solution of 1-cyclohexylmethyl-5-aminobenzimidazole (2.5 g, 11 mmol) in 20 ml of AcOH was added solution of Br2 in AcOH until it produces a precipitation. The reaction mixture was concentrated in vacuo to provide a brown solid which was subjected to column chromatography (5% NH3 sat'd MeOH/CH2Cl2) to provide 1.37 g (4.3 mmol, 40%) of the product.

reactant | 1-cyclohexylmethyl-5-aminobenzimidazole | 11 mmol, 2.5 g | C1(CCCCC1)CN1C=NC2=C1C=CC(=C2)N | C14H19N3
reactant | Br2 | BrBr | Br2
reactant | NH3 | N | H3N
reactant | MeOH CH2Cl2 | CO.C(Cl)Cl
solvent | AcOH | 20 ml | CC(=O)O | C2H4O2
product | 1-Cyclohexylmethyl-4-bromo-5-aminobenzimidazole | 4.3 mmol, 1.37 g, 40% | C1(CCCCC1)CN1C=NC2=C1C=CC(=C2Br)N | C14H18BrN3
